US07595327B2
According to the procedure of Example 10, Step 2, the reaction of 255.5 mg (0.4 mmol) of cis-6-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohex-3-ene-1-carboxylic acid with hydroxylamine provided 200.1 mg of cis-N-hydroxy-6-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohex-3-ene-1-carboxamide in 94% yield. MS: 482.1 (M+H)+

reactant | cis-6-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohex-3-ene-1-carboxylic acid | 0.4 mmol, 255.5 mg | CN([C@H]1CC=CC[C@H]1C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C25H26N2O5S
reactant | hydroxylamine | NO | H3NO
product | cis-N-hydroxy-6-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohex-3-ene-1-carboxamide | 200.1 mg, 94% yield | ONC(=O)[C@@H]1CC=CC[C@@H]1N(S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C | C25H27N3O5S
